US07326791B2
3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(2-methylpyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, 2-methylpyrrolidine, TBTU, and triethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.62 minutes; C21H20Cl2N4O2 (431.32); mass spectrum: (M+H)+=431.2.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(2-methylpyrrolidin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)C | C21H20Cl2N4O2
